US06787541B1
N-(2-Dimethylaminoethyl)-4-(2-thienylcarbonyl)thieno[3,2-d]pyrimidin-2-carboxamide (Example 134)
A mixture of 4-(2-thienylcarbonyl)thieno[3,2-d]pyrimidine-2-carboxylic acid ( 290 mg, 1.0 mmol) and SOCl2 (4 mL) was refluxed for 30 min, concentrated in vacuo, and treated with CH2Cl2 (10 mL), Et3N (208 μL, 1.5 mmol) and N,N-dimethylethylenediamine (120 μL, 1.1 mmol). The reaction mixture was stirred at room temperature for 1 h, poured into sat. NaHCO3, extracted with EtOAc (2×10 mL), dried (MgSO4), concentrated in vacuo then triturated with EtOAc and filtered to give the title compound (234 mg, 65%) as a cream solid.

reactant | 4-(2-thienylcarbonyl)thieno[3,2-d]pyrimidine-2-carboxylic acid | 1.0 mmol, 290 mg | S1C(=CC=C1)C(=O)C=1C2=C(N=C(N1)C(=O)O)C=CS2 | C12H6N2O3S2
reactant | SOCl2 | 4 mL | O=S(Cl)Cl | Cl2OS
reactant | Et3N | 1.5 mmol, 208 μL | CCN(CC)CC | C6H15N
reactant | N,N-dimethylethylenediamine | 1.1 mmol, 120 μL | CN(CCN)C | C4H12N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(2-Dimethylaminoethyl)-4-(2-thienylcarbonyl)thieno[3,2-d]pyrimidin-2-carboxamide | 234 mg, 65% | CN(CCNC(=O)C=1N=C(C2=C(N1)C=CS2)C(=O)C=2SC=CC2)C | C16H16N4O2S2
